US07635715B2
Step F: Preparation of Ethyl 5-hydroxy-7-imino-8,8-dimethyl-7,8-dihydroquinoline-6-carboxylate
A solution of benzaldehyde oxime (0.6 g, 5 mmol) in dry DMF (10 mL, 129 mmol) was added to a stirred suspension of 60% NaH (0.2 g, 5 mmol) in dry 1,4-dioxane (10 mL, 117 mmol) under a nitrogen atmosphere at room temperature. After 0.5 hours, a solution of the ethyl 3-(2-(2-cyanopropan-2-yl)pyridin-3-yl)propiolate (0.98 g, 4 mmol) in dry DMF (10 mL, 129 mmol) was added, and the solution was stirred for 30 minutes. The solvent was removed under vacuum, and water was added to the residue. The product was extracted with EtOAc. The organic layer was washed with water (3×) and then with saturated NH4Cl and brine (3× each) and dried over MgSO4. The resulting mixture was concentrated in vacuo to give a light-yellow crystalline solid/yellow oil. The yellow residue was washed with hexane providing the product as a yellow solid which was filtered off (0.65 g, 62%). MS (m/z)=261 (M+H)+. Calculated for C14H16N2O3 260.3.

reactant | benzaldehyde oxime | 5 mmol, 0.6 g | C(C1=CC=CC=C1)=NO | C7H7NO
reactant | DMF | 129 mmol, 10 mL | CN(C)C=O | C3H7NO
reactant | NaH | 5 mmol, 0.2 g | [H-].[Na+]
reactant | 1,4-dioxane | 117 mmol, 10 mL | O1CCOCC1 | C4H8O2
reactant | ethyl 3-(2-(2-cyanopropan-2-yl)pyridin-3-yl)propiolate | 4 mmol, 0.98 g | C(#N)C(C)(C)C1=NC=CC=C1C#CC(=O)OCC | C14H14N2O2
reactant | DMF | 129 mmol, 10 mL | CN(C)C=O | C3H7NO
product | Ethyl 5-hydroxy-7-imino-8,8-dimethyl-7,8-dihydroquinoline-6-carboxylate | OC=1C=2C=CC=NC2C(C(C1C(=O)OCC)=N)(C)C | C14H16N2O3
